datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2+:10][CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[N+:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1>>C1=CC=C([C:22]2=[CH:21][CH:20]([CH:10]3CCCC[C:11]3=[N+:12]3CCCC3)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CCO[C:62]([CH2:61][NH2:10])=[O:63].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCO[C:62]([CH2:61][NH2+:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)=[O:63] 10=20
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[C:61]1=[N:10]CC[S:62]1>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([N+:10]1=[C:61](C)[S:62]CC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C)[CH:64]=[CH:63]3)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1.CN1CC[C:20](=[O:21])CC1>>CN1CC[C:20]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:11]2=[N+:12](C3=C(C(C)(C)C)C=CC=C3C(C)(C)C)[N:73]=[C:75](C3=CC=CC=C3)[N:62]2C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)([O-:21])CC1 10,11=10,20;12=11,12;20,21=21"
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C1CC[N:72]([C:61]([S-:10])=[S:62])C1>>C1=CC=C([C:20]2([S:10][C:61](=[S:62])[N:72]3CCCC3)[S:31]CCC[S:41]2)C=C1 10=20
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([CH:11]([H:10])[C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[CH:11][C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[S:20]C(F)(F)F.C[N-:21]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>C[C:10]([C:11]#[N:12])([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1)[C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21"
"CCCC[Si:11](CCCC)(CCCC)[H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CCCC[Si+:11](CCCC)CCCC.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]([O-:12])[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)C=C1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>C[O:21][CH:20]([CH:10]([C:11](=[O:12])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21"
